US09290476B2
(3,4-Dimethoxyphenyl)(pyridin-3-yl)methanone
The title compound was prepared analogously to the method in Intermediate 25: step b using (3,4-dimethoxyphenyl)(pyridin-3-yl)methanol (Intermediate 27: step a) in place of (1-methyl-1H-imidazol-5-yl)(pyridin-2-yl)methanol.

reactant | (3,4-dimethoxyphenyl)(pyridin-3-yl)methanol | COC=1C=C(C=CC1OC)C(O)C=1C=NC=CC1 | C14H15NO3
reactant | (1-methyl-1H-imidazol-5-yl)(pyridin-2-yl)methanol | CN1C=NC=C1C(O)C1=NC=CC=C1 | C10H11N3O
product | (3,4-Dimethoxyphenyl)(pyridin-3-yl)methanone | COC=1C=C(C=CC1OC)C(=O)C=1C=NC=CC1 | C14H13NO3
